US06353006B1
A mixture of 2-(2,3-dimethyl-4-(2-trimethylsilyl-1-ethynyl)phenylimino)-1-isobutyl-3-thia-1-azaspiro[4.4]nonane (0.005 g, 0.0125 mmol) and NaOH (0.006 g, 0.15 mmol) in MeOH (2 mL) was stirred overnight at room temp. The reaction mixture was diluted with CH2Cl2 (20 mL), filtered, and the filtrate was concentrated under reduced pressure. Thre residue was purified by preparative TLC (2% EtOAc/Hex) to give 2-(2,3-dimethyl-4-ethynylphenylimino)-1-isobutyl-3-thia-1-azaspiro[4.4]nonane (0.003.2 g, 78%): TLC (20% EtOAc/hex) Rf0.70.

reactant | 2-(2,3-dimethyl-4-(2-trimethylsilyl-1-ethynyl)phenylimino)-1-isobutyl-3-thia-1-azaspiro[4.4]nonane | 0.0125 mmol, 0.005 g | CC1=C(C=CC(=C1C)C#C[Si](C)(C)C)N=C1N(C2(CS1)CCCC2)CC(C)C | C24H36N2SSi
reactant | NaOH | 0.15 mmol, 0.006 g | [OH-].[Na+]
solvent | MeOH | 2 mL | CO | CH4O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-(2,3-dimethyl-4-ethynylphenylimino)-1-isobutyl-3-thia-1-azaspiro[4.4]nonane | 78% | CC1=C(C=CC(=C1C)C#C)N=C1N(C2(CS1)CCCC2)CC(C)C | C21H28N2S
